US07351724B2
6-Phenyl-1-[5-(pyridin-2-yl)-1,3,4-oxadiazol-2-yl]-hexan-1-one
Starting with methyl 5-(pyridin-2-yl)-[1,3,4]-oxadiazole-2-carboxylate and 5-bromopentylbenzene, the title compound (21 mg, 49%) was obtained as a white solid, using a procedure similar to Example 1. 1H NMR (400 MHz, CDCl3) 1.45 (m, 2H), 1.68 (quintet, J=7.8 Hz, 2H), 1.86 (quintet, J=7.6 Hz, 2H), 2.62 (t, J=7.6 2H), 3.31 (t, J=7.5 Hz, 2H), 7.18-7.20 (m, 3H), 7.27-7.29 (m, 2H), 7.54 (d 7.9, 5.0, 1.2 Hz, 1H), 7.94 (td, J=7.6, 1.8 Hz, 1H), 8.30 (d, J=7.9 Hz, 1H), 8.85 (d, J=5.0 Hz, 1H); 13C NMR (CDCl3, 100 MHz) 23.4, 28.6, 31.1, 35.7, 40.0, 124.0, 125.7, 126.7, 128.3, 128.4, 137.3, 142.3, 142.6, 150.8, 161.2, 165.1, 187.0; MALDI-FTMS m/z 322.1557 (C19H19N3O2+H+ requires 322.1556).

reactant | methyl 5-(pyridin-2-yl)-[1,3,4]-oxadiazole-2-carboxylate | N1=C(C=CC=C1)C1=NN=C(O1)C(=O)OC | C9H7N3O3
reactant | 5-bromopentylbenzene | BrCCCCCC1=CC=CC=C1 | C11H15Br
product | 6-Phenyl-1-[5-(pyridin-2-yl)-1,3,4-oxadiazol-2-yl]-hexan-1-one | 21 mg, 49% | C1(=CC=CC=C1)CCCCCC(=O)C=1OC(=NN1)C1=NC=CC=C1 | C19H19N3O2
